US20010027196A1
To a stirred solution of 1.00 g (3.00 mmol) 4-furan-2-yl-5-iodo-6-methylsulfanyl-pyrimidin-2-yl-amine in 30 ml dioxane under argon at room temperature were added 0.96 ml (3.30 mmol) vinyltributylstannane, 347 mg (0.30 mmol) tetrakis(triphenylphosphine) palladium(O) and 6.0 ml (12.0 mmol) 2M aqueous sodium carbonate solution. The reaction mixture was heated at reflux for 16 h, then cooled to room temperature, 3 g of kieselgel added, and the mixture concentrated in vacuo. Flash chromatography (1/3 ethyl acetate/hexane) followed trituration in ether/hexane afforded 460mg (66%) 4-furan-2-yl-6-methylsulfanyl-5-vinyl-pyrimidin-2-ylamine as an orange crystalline solid. EI-MS m/e (%): 233 (M+, 48), 218 ([M—CH3]+, 76), 216 ([M—NH3]+, 46), 125 (100).

reactant | 4-furan-2-yl-5-iodo-6-methylsulfanyl-pyrimidin-2-yl-amine | 3.00 mmol, 1.00 g | O1C(=CC=C1)C1=NC(=NC(=C1I)SC)N | C9H8IN3OS
reactant | vinyltributylstannane | 3.30 mmol, 0.96 ml | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | sodium carbonate | 12.0 mmol, 2M, 6.0 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium(O) | 0.30 mmol, 347 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 4-furan-2-yl-6-methylsulfanyl-5-vinyl-pyrimidin-2-ylamine | 460mg, 66% | O1C(=CC=C1)C1=NC(=NC(=C1C=C)SC)N | C11H11N3OS
